US05698696
Potassium tert-butoxide (4 g, 35.5 mmol) is added portionwise at 0° C. and under nitrogen to a suspension of methyltriphenylphosphonium bromide (12.7 g, 35.5 mmol) in dry tetrahydrofuran (120 mL) and the reaction mixture is stirred for 1 hr at room temperature. The 5-methoxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one (5.55 g, 23.7 mmol) in dry tetrahydrofuran (40 mL) is added dropwise at 0° C. to the yellow suspension and the reaction is stirred overnight at room temperature. Water (50 mL) is carefully added and most of the solvent is evaporated under reduced pressure. The residue is taken in ethyl acetate (200 mL), washed with brine, dried (magnesium sulfate) and evaporated to dryness. Purification through a small pad of silica gel using dichloromethane as a solvent gave 5.47 g 5-methoxy-3-methylene-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (99%) as a yellow oil. Rf=0.48 (heptane/ethyl acetate 90:10).

reactant | Potassium tert-butoxide | 35.5 mmol, 4 g | CC(C)([O-])C.[K+]
reactant | 5-methoxy-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-one | 23.7 mmol, 5.55 g | COC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C14H18O3
reactant | Water | 50 mL | O | H2O
catalyst | methyltriphenylphosphonium bromide | 35.5 mmol, 12.7 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-methoxy-3-methylene-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran | 5.47 g, 99% | COC=1C(=C(C2=C(C(C(O2)(C)C)=C)C1C)C)C | C15H20O2
